US07981903B2
A 1.0M solution of lithium aluminum hydride in diethyl ether (Aldrich, 11 mL, 11 mmol, 10 equiv.) was added dropwise to a solution of 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (0.280 g, 1.12 mmol) in diethyl ether (10 mL). The solids failed to dissolve, so anhydrous tetrahydrofuran was added (10 mL) and the solution was maintained at 50° C. for 12 hours. The solution was cooled, poured into ice water, diluted with ethyl acetate, and the organic layer was dried, taken to a residue under reduced pressure, and purified by chromatography on SiO2 to afford 1-[2-(dimethylamino)ethyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (0.065 g, 25% Yield). 1H NMR (400 MHz, CDCl3) δ ppm 6.66 (s, 1 H), 6.05 (s, 1 H), 3.77 (s, 3 H), 3.28 (t, J=8.07 Hz, 2 H), 3.16 (t, J=6.97 Hz, 2 H), 2.86 (t, J=8.25 Hz, 2H), 2.64 (s, 2 H), 2.39 (s, 6 H).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 1.12 mmol, 0.280 g | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C13H19N3O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 11 mmol, 11 mL, 10 equiv. | C(C)OCC | C4H10O
product | 1-[2-(dimethylamino)ethyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 0.065 g, 25% Yield | CN(CCN1CCC2=CC(=C(C=C12)N)OC)C | C13H21N3O
